* WARNING : please consider following remarks before usage *
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal 
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions 
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*-----------------------------------------------------------------------------------------
*
** Standard Linear Ics Macromodels, 2002.
** CONNECTIONS :
* 1 INVERTING INPUT
* 2 NON-INVERTING INPUT
* 3 OUTPUT
* 4 POSITIVE POWER SUPPLY
* 5 NEGATIVE POWER SUPPLY
.SUBCKT TS7211 1 2 3 4 5
**********************************************************
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 -3E-3
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 9E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0 
DINR 15 18 MDTH 400E-12
VIP 4 18 .600000E+00
FCP 4 5 VOFP 0.00
FCN 5 4 VOFN 0.00
FIBP 2 0 VOFN 1.5000000E-08
FIBN 0 1 VOFP 1.5000000E-08
* AMPLIFYING STAGE
RG1 5 19 2.8E+05
RG2 4 19 2.8E+05
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 3500
VIPM 28 4 150
HONM 21 27 VOUT 3000
VINM 5 27 150
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP 104
FIN 0 19 VOFN 104
EOUT 26 23 19 5 1
VOUT 23 5 0V
ROUT 26 3 70
.ENDS ;TS7211